US07667041B2
Synthesis of trans-4-amino-1-(4-fluorophenyl)pyrrolidine-3-ol
To a 1,4-dioxane (3 mL) solution of 3-(4-fluorophenyl)-6-oxa-3-azabicyclo[3.1.0]hexane (75 mg), an aqueous (1 mL) solution of sodium azide (82 mg) was added, and the reaction solution was agitated at 100° C. for 7 hours. After the reaction solution was allowed to be cooled to room temperature, ethyl acetate and a saturated sodium chloride solution were added to the reaction solution, and the organic layer was partitioned. The obtained organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. 10% Palladium carbon (48% water content, 10 mg) was added to an ethanol (5 mL) solution of the residue, and the reaction solution was agitated at room temperature under a hydrogen current for 3 hours. 61 mg of the title compound was obtained by carrying out celite filtration of the reaction solution, and condensing the filtrate under reduced pressure. The physical properties of the compound are as follows.

reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | 3-(4-fluorophenyl)-6-oxa-3-azabicyclo[3.1.0]hexane | 75 mg | FC1=CC=C(C=C1)N1CC2OC2C1 | C10H10FNO
reactant | sodium azide | 82 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-4-amino-1-(4-fluorophenyl)pyrrolidine-3-ol | 61 mg | N[C@H]1[C@@H](CN(C1)C1=CC=C(C=C1)F)O | C10H13FN2O
